US07741315B2
Step 4: 6-(3-Chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid
A mixture of ethyl 3-(acetyloxy)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (217 g, 0.48 mol), lithium hydroxide monohydrate (70.7 g, 1.67 mol), and water (320 mL) in ethanol (1.8 L) was sonicated for 20 minutes. The reaction mixture was cooled in an ice-water bath and treated with hydrochloric acid (425 mL, 3 M). The resultant light yellow solid was filtered, washed successively with water (1 L), a 3:2 v/v mixture of water and ethanol (500 mL), MTBE (750 mL), and air dried. The yellow solid was dissolved in anhydrous DMF (700 mL) and concentrated under vacuum. The procedure was repeated twice to remove residual water. The yellow solid was triturated with MTBE, filtered, and stored under vacuum overnight to afford the title acid.

reactant | ethyl 3-(acetyloxy)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 0.48 mol, 217 g | C(C)(=O)OC=1N=C(C=2CCN(C(C2C1OC)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OCC | C21H20ClFN2O6
reactant | lithium hydroxide monohydrate | 1.67 mol, 70.7 g | O.[OH-].[Li+]
reactant | water | 320 mL | O | H2O
reactant | hydrochloric acid | 3 M, 425 mL | Cl | ClH
solvent | ethanol | 1.8 L | C(C)O | C2H6O
product | 6-(3-Chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | ClC=1C=C(CN2C(C3=C(C(NC(=C3CC2)C(=O)O)=O)OC)=O)C=CC1F | C17H14ClFN2O5
